US06492403B1
Using a procedure similar to Example 208, step (a), 66.6 mg (0.32 mmol) of methyl 4-amino-5-methylthiothiophene-2-carboxylate was allowed to react with 100 mg (2 equiv, 0.64 mmol) of 4-chlorophenyl boronic acid to give 11.8 mg (11.7%) of methyl 4-[(4-chlorophenyl)amino]-5-methylthiothiophene-2-carboxylate and 21 mg (31.5%) of unreacted starting material. 1H NMR (CDCl3, 400 MHz) δ2.41 (s, 3H), 3.89 (s, 3H), 6.09 (bs, 1H), 6.94 (d, 2H, J=8.6 Hz), 7.25 (d, 2H, J=8.6 Hz), 7.70 (s, 1H).

reactant | methyl 4-amino-5-methylthiothiophene-2-carboxylate | 0.32 mmol, 66.6 mg | NC=1C=C(SC1C)C(=S)OC | C7H9NOS2
reactant | 4-chlorophenyl boronic acid | 0.64 mmol, 100 mg, 2 equiv | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | methyl 4-[(4-chlorophenyl)amino]-5-methylthiothiophene-2-carboxylate | 11.8 mg, 11.7% | ClC1=CC=C(C=C1)NC=1C=C(SC1C)C(=S)OC | C13H12ClNOS2
